Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]=[C:3]([O:4][H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11]>>[H:1][C:2]#[C:3]/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11].[O:4][H:5],2.92871639079
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:6]([H:7])=[C:8]([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])[H:5],4.17055286987
[H:1][C:2]([H:3])[C:4]#[C:5][O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:12].[H:1][C:2]([H:3])[C:4]#[C:5][O:6][C:7]([H:8])=[C:9]([H:10])[H:11],2.1129562844
[C:1][C:2]#[C:3][C:5]([O:6][H:7])[O:8][H:9].[H:4]>>[C:1]#[C:2][C:3]([H:4])=[C:5]([O:6][H:7])[O:8][H:9],-4.02378151953
[H:7].[O:1][O:2][C:3]([H:4])([H:5])[C:6]=[C:8]([H:9])[H:10]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]([H:9])[H:10],-4.85588080487
[C:3]#[C:4][C:5]([H:6])([H:7])[H:8].[O:1]=[O:2]>>[O:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[H:8],-2.3717696212
[C:4]([H:5])([H:6])[H:7].[H:1][C:2](=[O:3])[C:8]([H:9])([H:10])[C:11]([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[C:13]([H:14])([H:15])[H:16],-0.51195651602
[H:1].[O:2]=[C:3]=[C:4][C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C:3]#[C:4][C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12],-3.03721182783
[C:1]#[C:2].[C:3]([H:4])([H:5])[O:6][H:7]>>[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][H:7],-4.870115322759999
[H:1][C:7](=[C:6]([C:3](/[C:2]=[C:13](/[C:9]([H:10])([H:11])[H:12])[H:14])([H:4])[H:5])[H:15])[H:8]>>[H:1][C:2]1[C:3]([H:4])([H:5])[C:6][C@:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]1([H:14])[H:15],1.38405378526
[H:1][C:2](=[C:3]([H:4])[H:5])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:6]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-2.0338115044
[H:1][C:2][O:3][C:4][O:5][C:6]#[C:7][H:8]>>[C:4][O:5][C:6]#[C:7][H:8].[H:1][C:2]=[O:3],0.65468742436
[H:3].[O:1]=[C:2][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][H:11],-4.03175863235
[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10].[H:1][C:2](=[O:3])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],0.56157935756
[C:3][C:4]([H:5])([H:6])[H:7].[H:1][C:2][C:8]([H:9])([H:10])[H:11]>>[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],-7.11103501278
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]#[C:9][C:10]([H:11])([H:12])[H:13]>>[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]#[C:9][C:10]([H:11])[H:12],2.6892388465900003
[C:4]([H:5])#[C:6][O:7][C:8]([H:9])([H:10])[H:11].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6][O:7][C:8]([H:9])([H:10])[H:11],-4.54624084691
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[H:14].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])/[C:10]([H:11])=[C:12](\[H:13])[C:15]([H:16])([H:17])[H:18],1.78440167398
[H:11].[O:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])=[C:9][H:10]>>[O:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],-5.02222914352
[H:1][O:2]/[C:3]([H:4])=[C:6](\[H:7])[C:8]#[C:9][C:10]([H:11])[H:12].[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]#[C:9][C:10]([H:11])[H:12],-3.0615087899299995
[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-10.56869066
[H:1][C:2]#[C:3][C:5]([H:6])=[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])=[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.7841095428099998
[H:1][C:2]([H:3])=[C:4][O:5][C:6]=[C:7]([H:8])[H:9]>>[H:1][C:2]([H:3])=[C:4].[O:5]=[C:6]=[C:7]([H:8])[H:9],-0.5847484439289999
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([O:9][H:10])=[C:11]([H:12])[H:13]>>[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([O:9][H:10])=[C:11]([H:12])[H:13].[O:1],4.09002170535
[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9][H:10]>>[H:3].[O:1]=[C:2]=[C:4]([H:5])[C:6]([H:7])[O:8][C:9][H:10],3.92803859024
[H:1][O:2][C:3](/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1].[O:2]=[C:3](/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9])[C:10]([H:11])([H:12])[H:13],1.78250696061
[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])[H:10]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-3.9173718471900014
[H:1][O:2][C:3][C:4]([C:5][O:6][H:7])=[C:8]([H:9])[H:10]>>[C:5][O:6][H:7].[H:1][O:2][C:3]#[C:4][C:8]([H:9])[H:10],1.8516423414900005
[O:1]=[C:2]([C:3][O:4][C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2]=[C:3][O:4][C:5]([H:6])[H:7],1.6840924658200005
